US04740596
A 1.03 g quantity of 3,4,5-trimethoxy-2,6-dichlorobenzyl 2-[3-phenoxyacetamido-4-(4-methylbenzothiazol-2-yldithio)-2-azetidinon-1-yl]-3-methyl-3-butenoate and 448 mg of 4-methylbenzothiazol-2-yl benzenethiosulfonate were dissolved in 10 ml of acetone. To the solution were added 2 ml of water and then 8 mg of sodium benzenesulfinate. The mixture was stirred at room temperature for 5 hours. The precipitated 4-methylbenzothiazol-2-yl disulfide crystals were filtered and the filtrate was concentrated under reduced pressure. The residue was treated in the same manner as in Example 1, giving 3,4,5-trimethoxy-2,6-dichlorobenzyl 2-(3-phenoxyacetamido-4-benzenesulfonylthio-2-azetidinon-1-yl)-3-methyl-3-butenoate in a yield of 86%. The NMR spectrum data of the compound thus obtained were identical with those of the desired compound. Table 2 below indicates the data thereof.

reactant | 3,4,5-trimethoxy-2,6-dichlorobenzyl 2-[3-phenoxyacetamido-4-(4-methylbenzothiazol-2-yldithio)-2-azetidinon-1-yl]-3-methyl-3-butenoate | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1SSC=1SC2=C(N1)C(=CC=C2)C)C(C(=O)OCC2=C(C(=C(C(=C2Cl)OC)OC)OC)Cl)C(=C)C)=O | C34H33Cl2N3O8S3
reactant | 4-methylbenzothiazol-2-yl benzenethiosulfonate | 448 mg | C1(=CC=CC=C1)S(=O)(OC=1SC2=C(N1)C(=CC=C2)C)=S | C14H11NO2S3
reactant | water | 2 ml | O | H2O
reactant | sodium benzenesulfinate | 8 mg | C1(=CC=CC=C1)S(=O)[O-].[Na+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 3,4,5-trimethoxy-2,6-dichlorobenzyl 2-(3-phenoxyacetamido-4-benzenesulfonylthio-2-azetidinon-1-yl)-3-methyl-3-butenoate | yield of 86% | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1SS(=O)(=O)C1=CC=CC=C1)C(C(=O)OCC1=C(C(=C(C(=C1Cl)OC)OC)OC)Cl)C(=C)C)=O | C32H32Cl2N2O10S2
